US05416211
To 4.46 g (16 mmol) of methyl 4-(4-trimethylsilyloxy-3 -butenyl)benzoate, prepared in Preparation 1, in 16 ml carbon tetrachloride at -20° C. was slowly added 2.56 g (16 mmol) of bromine in 16 ml carbon tetrachloride over 4 hours. The mixture was allowed to come to room temperature then decanted from a small amount of insoluble material. The solvent was removed by vacuum rotary evaporation to give 4.60 g of 2-bromo-4-(4-carbomethoxyphenyl)butanal. Chromatography purification (silica; hexane-ethyl acetate 7:3) of the above product gave 4.0 g in a yield of 87.8 percent. 1H NMR (CDCl3) δ2.24 (m, 1H), 2,36 (m, 1H), 2.81 (m, 1H), 2.90 (m, 1H), 3.90 (s, 3H), 4.16 (m, 1H), 7.27 (d, J=8.2 Hz, 2H), 7.97 (d, J=8.2 Hz, 2H), 9.46 (d, J=2.1 Hz, 1H); 13C NMR (CDCl3) δ32.5, 32.7, 51.7, 54.3, 128.3, 128.4, 129.8, 145.0, 166.6, 192.0.

reactant | methyl 4-(4-trimethylsilyloxy-3 -butenyl)benzoate | 16 mmol, 4.46 g | C[Si](OC=CCCC1=CC=C(C(=O)OC)C=C1)(C)C | C15H22O3Si
reactant | bromine | 16 mmol, 2.56 g | BrBr | Br2
solvent | carbon tetrachloride | 16 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 16 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-4-(4-carbomethoxyphenyl)butanal | 4.60 g, yield of 87.8 percent | BrC(C=O)CCC1=CC=C(C=C1)C(=O)OC | C12H13BrO3
